US08859596B2
(S)-2-((1-methylpyrrolidin-2-yl)methoxy)-5-(trifluoromethyl)benzonitrile
To a solution of (S)-(1-methylpyrrolidin-2-yl)methanol (5.2 g, 45.1 mmol) in 25 mL of THF was added sodium hydride (1.970 g, 49.3 mmol). The reaction was stirred at 22° C. for 20 min. and 2-fluoro-5-(trifluoromethyl)benzonitrile (Aldrich) (8.54 g, 45.1 mmol) was added in 5 mL of THF. The reaction was stirred at 22° C. for 3 h. The solvent was evaporated under reduced pressure. The residue was dissolved in ether, washed with brine, water, dried with magnesium sulfate and concentrated to afford the title compound. MS (ESI) m/z 285 (M+H)+.

reactant | (S)-(1-methylpyrrolidin-2-yl)methanol | 45.1 mmol, 5.2 g | CN1[C@@H](CCC1)CO | C6H13NO
reactant | sodium hydride | 49.3 mmol, 1.970 g | [H-].[Na+]
reactant | 2-fluoro-5-(trifluoromethyl)benzonitrile | 45.1 mmol, 8.54 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-2-((1-methylpyrrolidin-2-yl)methoxy)-5-(trifluoromethyl)benzonitrile | CN1[C@@H](CCC1)COC1=C(C#N)C=C(C=C1)C(F)(F)F | C14H15F3N2O
